Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
cats, dogs, dust, pollen
 
Attending: ___.
 
Chief Complaint:
confusion
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ yo F with hx of EtOH cirrhosis c/b esophageal
varices s/p recent banding (___), stomach ulcer, ESRD on HD,
HTN, asthma who presents with altered mental status from
dialysis.

She had a recent admission (___) with a similar
presentation, and was treated for hepatic encephalopathy with
lactulose, alcoholic hallucinosis with lorazepam, and uremic
encephalopathy with resumption HD.

In the ED initial vitals:
96.6, 55, 159/80, 16, 99% RA
- Exam notable for:
Lethargic but arousable, Ox2-3, +asterixis

- Labs notable for:
CBC: ___
Chem7: lytes OK
LFTs: AST/ALT: 73/33, ALP 429, Tbili 1.8, lip 50
Coags: INR 1.1
EtOH level: negative

- Imaging notable for:
Clean CTH, non-con
RUQUS: 1. There is cholelithiasis without evidence of
cholecystitis.
2. Echogenic kidneys which can be seen with chronic medical 
renal
disease.

- Patient was given:
Home meds
Ceftriaxone for SBP(?) iso HE

On arrival to the floor the patient states that her confusion is
starting to improve. Her son is at bedside and agrees. She
describes being at dialysis and feeling more confused along with
whole body cramping, with a single episode of non-bloody
non-bilious emesis. Of note, she denies abdominal pain despite
eliciting pain on exam. She stopped taking lactulose several
months ago due to the diarrhea. Last drink was yesterday and she
drinks around 5 shots of vodka/brandy a day.

 
Past Medical History:
EtOh Cirrhosis 
Stage IV CKD
Anemia
Wernicke's Encephalopathy
Asthma
Tobacco Use
HTN
Hypothyroidism
CIN II (cervical intraepithelial neoplasia II)
RLE DVT ___ dt L patella fx s/p IVC filter (removed),  w/
catheter
directed thrombolysis c/b ?extravasation into right thigh. DVT 
in
setting of immobility from left patella fracture
S/P BARIATRIC SURGERY ___ - ___ w/ Dr. ___ 
___
Seasonal allergies
ascites
esophageal varices
malnutrition
HEMORRHOIDS
HEPATIC HYDROTHORAX
COLONIC ADENOMA
 
Social History:
___
Family History:
Mother ASTHMA 
  DIABETES ___ 
  HYPERTENSION 
  THYROID DISORDER 
  OBESITY 
  
Father SUBSTANCE ABUSE 
  CARDIAC 
  HYPERTENSION 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS:  ___ ___ Temp: 97.8 PO BP: 133/80 R Lying HR: 61 RR: 
16
O2 sat: 99% O2 delivery: ra Dyspnea: 0 RASS: -1 Pain Score: ___ 

GENERAL: NAD, tired appearing
HEENT: Sclera icteric
CARDIAC: Regular rhythm, normal rate.
LUNGS: Bilateral crackles,  No increased work of breathing.
BACK: No CVA tenderness. 
ABDOMEN: Normal bowels sounds, non distended, diffusely tender 
to palpation in all quadrants, greatest in RUQ. 
EXTREMITIES: mild non pitting edema to ankles
SKIN: Warm. Cap refill <2s. Multiple ecchymoses on bilateral
forearms, shoulder/flank. Large ecchymosis with mild erythema
with no fluctuance on right AC. 
NEUROLOGIC: AOx3 to person place and time. asked to say days of
week backward and she answered days of week forward. asterixis 
on
exam

 DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 812)
    Temp: 98.5 (Tm 98.9), BP: 101/63 (94-121/52-75), HR: 80
(77-92), RR: 18 (___), O2 sat: 95% (94-100), O2 delivery: Ra,
Wt: 166.7 lb/75.62 kg (163.3-166.7)   

GENERAL: NAD, tired appearing
HEENT: Sclera icteric
CARDIAC: Regular rhythm, normal rate.
LUNGS: Bilateral crackles,  No increased work of breathing.
BACK: No CVA tenderness. 
ABDOMEN: Normal bowels sounds, non distended, diffusely tender 
to palpation in all quadrants, greatest in RUQ. 
EXTREMITIES: mild non pitting edema to ankles
SKIN: Warm. Cap refill <2s. Multiple ecchymoses on bilateral
forearms, shoulder/flank. Large ecchymosis with mild erythema
with no fluctuance on right AC. 
NEUROLOGIC: AOx3 to person place and time. asterixis on exam.
Days of week backwards

 
Pertinent Results:
ADMSSION LABS:
=======================

___ 01:15PM BLOOD WBC-5.5 RBC-3.09* Hgb-10.4* Hct-32.9* 
MCV-107* MCH-33.7* MCHC-31.6* RDW-17.9* RDWSD-68.9* Plt Ct-73*
___ 01:45PM BLOOD ___ PTT-32.1 ___
___ 01:15PM BLOOD Glucose-85 UreaN-35* Creat-7.9*# Na-136 
K-4.2 Cl-98 HCO3-22 AnGap-16
___ 01:15PM BLOOD ALT-33 AST-73* AlkPhos-429* TotBili-1.8*
___ 01:15PM BLOOD Albumin-4.0 Calcium-9.2 Phos-4.4 Mg-2.3
___ 01:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

DISCHARGE LABS:
========================

___ 05:05AM BLOOD WBC-7.5 RBC-2.57* Hgb-8.5* Hct-28.0* 
MCV-109* MCH-33.1* MCHC-30.4* RDW-17.8* RDWSD-70.4* Plt Ct-92*
___ 05:05AM BLOOD ___ PTT-31.0 ___
___ 05:05AM BLOOD Glucose-105* UreaN-18 Creat-5.3*# Na-138 
K-3.6 Cl-98 HCO3-26 AnGap-14
___ 05:05AM BLOOD ALT-26 AST-66* AlkPhos-365* TotBili-1.0
___ 05:05AM BLOOD Calcium-8.4 Phos-4.0 Mg-2.1

PERTINENT IMAGING:
=======================

CT HEAD
IMPRESSION: 
 1. No acute intracranial findings. 

LIVER OR GALLBLADDER US
IMPRESSION: 
1. ThEre is cholelithiasis without evidence of cholecystitis. 
2. Echogenic kidneys which can be seen with chronic medical 
renal disease. 

 
Brief Hospital Course:
PATIENT SUMMARY
===================
Ms. ___ is a ___ yo F with hx of EtOH cirrhosis complicated by 
esophageal varices s/p recent banding (___), stomach ulcer, 
ESRD on HD, HTN, asthma who presented with altered mental status 
from dialysis. The AMS is likely multi-factorial including 
lethargy from dialysis, recent excessive etoh intake, and 
non-compliance with lactulose. Specifically, she reports not 
taking lactulose for several months due to it causing diarrhea, 
therefore, she may only need 1x dosing a day. Her mental status 
completely improved the day after admission. The patient was 
encouraged to stop drinking and educated on the importance of 
taking lactulose and rifaximin. The patient is unaware of the 
medications she is taking and would benefit from close follow 
up. We discharged her with some medications to bedside. Please 
see below for more information

TRANSITIONAL ISSUES:
====================

MED CHANGES
[] Gave the patient four tiny bottles of lactulose and 
instructed her to use it if she or her son was concerned about 
confusion. Also filled rifaximin
[] Filled Advair prescription for asthma. Unclear if she is 
using inhaler and would likely benefit from getting a rescue 
inhaler as well
[] Filled baclofen that she takes for back pain (tiny dose) but 
this may be a deliriogenic that should be avoid in the future if 
she has recurrent confusion
[] Gave the patient folic acid and thiamine given concern for 
malnutrition and Wernickes during previous hospitalization
[] It was too soon to fill her levothyroxine. She states she has 
it at home. 
[] It was too soon to fill midodrine and dialysis vitamins
[] Continued Alcohol Cessation Counseling
[] Encourage cessation of tobacco

--Discharge Hgb 8.5
--Discharge weight 166 lbs

ACTIVE ISSUES
=============
# Encephalopathy
Multifactorial with most important factor likely hepatic 
encephalopathy. Patient and son confirm that she has not taken 
her lactulose for ~ 1 month, had drank a marked amount of 
alcohol the night prior. Has hx of concern for wernicke's 
encephalopathy and prior admissions for alcoholic hallucinosis 
but no signs of withdrawal this admission. Treated predominantly 
with lactulose with recovery of mental status and folate and 
thiamine by mouth.  

#Alcohol use disorder
Patient met with social work on last hospitalization but stated 
she does not wish to stop drinking at this time. Was given 
resources for relapse  prevention. This admission she states 
that she has a social worker already and not interested in 
another consultation. Patient received thiamine, MV, and folate. 
She was monitored for signs of withdrawal but did not require 
treatment. 

#Etoh Cirrhosis
History of etoh cirrhosis with continued etoh intake. MELD score 
21 Childs Class 6 on admission. Not a transplant candidate given 
continued etoh intake. 
Volume: no ascites on RUQUS, not discharged on diuretics and
denies taking at home
Infection: see above
Bleed:  Hgb 10.4 on admit and last was 7.3. history
of anemia requiring transfusions, last EGD in ___ s/p banding 
of varices. 
Encephalopathy: on home rifaximin, but was not taking lactulose, 
discharged with lactulose PRN confusion

CHRONIC ISSUES:
======================
#ESRD on iHD (___)
Missed ___ dialysis as she was sent to ED. She received 
dialysis while in patient

#asthma
patient is taking advair at home twice a day.

#hypothyroidism
continued home levothyroxine

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO EVERY OTHER DAY 
2. Baclofen 2.5 mg PO BID 
3. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
4. Fluticasone Propionate NASAL 1 SPRY NU BID:PRN wheezing 
5. FoLIC Acid 1 mg PO DAILY 
6. Ipratropium Bromide Neb 1 NEB IH BID:PRN wheezing 
7. Levothyroxine Sodium 62.5 mcg PO DAILY 
8. Lidocaine 0.5% 2 mL TT DAILY:PRN during dialysis 
9. Midodrine 20 mg PO TID 
10. Multivitamins 1 TAB PO DAILY 
11. Pantoprazole 40 mg PO Q12H 
12. rifAXIMin 550 mg PO BID 
13. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 

 
Discharge Medications:
1.  Lactulose 30 mL PO Q6H:PRN encephalopathy 
RX *lactulose 20 gram/30 mL 30 ml by mouth every six (6) hours 
Disp #*1 Bottle Refills:*1 
2.  Thiamine 100 mg PO DAILY Duration: 5 Days 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth once a 
day Disp #*30 Tablet Refills:*1 
3.  Allopurinol ___ mg PO EVERY OTHER DAY 
RX *allopurinol ___ mg 1 tablet(s) by mouth every other day Disp 
#*30 Tablet Refills:*1 
4.  Baclofen 2.5 mg PO BID 
RX *baclofen 5 mg 0.5 (One half) tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*1 
5.  Dialyvite (B complex ___ 
complex-vitamin C-folic acid) ___ mg-mg-mcg-mg oral 
DAILY 
RX *B complex ___ [Dialyvite] 1 mg-100 mg-300 
mcg-50 mg 1 tablet(s) by mouth once a day Disp #*30 Tablet 
Refills:*1 
6.  Fluticasone Propionate NASAL 1 SPRY NU BID:PRN wheezing 
RX *fluticasone propionate 50 mcg/actuation 1 spray intranasally 
each nostril, once a day Disp #*1 Spray Refills:*0 
7.  Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
RX *fluticasone propion-salmeterol 100 mcg-50 mcg/dose 1 inhaled 
twice a day Disp #*1 Disk Refills:*1 
8.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet by mouth once a day Disp #*30 
Tablet Refills:*1 
9.  Ipratropium Bromide Neb 1 NEB IH BID:PRN wheezing  
10.  Levothyroxine Sodium 62.5 mcg PO DAILY 
RX *levothyroxine 125 mcg 0.5 (One half) tablet(s) by mouth once 
a day Disp #*30 Tablet Refills:*1 
11.  Lidocaine 0.5% 2 mL TT DAILY:PRN during dialysis  
12.  Midodrine 20 mg PO TID 
RX *midodrine 10 mg 2 tablet(s) by mouth three times a day Disp 
#*90 Tablet Refills:*1 
13.  Multivitamins 1 TAB PO DAILY  
14.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*1 
15.  rifAXIMin 550 mg PO BID 
RX *rifaximin [___] 550 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Hepatic Encephalopathy

Secondary:
Alcohol Intoxication
ESRD on Dialysis
Cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___.
You came to the hospital because you were confused and sleepy at 
dialysis.
You were given lactulose to help with your confusion. This 
medicine works by helping you stool frequently. Please remember 
that if you do not take lactulose the confusion will return. We 
also encourage you to stop drinking alcohol. Your liver disease 
is worsening and you may die if you do not stop drinking. We 
wish you all the best, and once again it was a pleasure caring 
for you.

Sincerely,

Your ___ Team
 
Followup Instructions:
___